US06610696B2
A. 2-Benzylamino-4-[4-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenoxy]-butyric acid ethyl ester
A sample of 2-amino-4-[4-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenoxy]-butyric acid ethyl ester (612 mg, 1.73 mmol) and benzaldehyde (220 mg, 2.08 mmol) was dissolved in 10 mL of methylene chloride followed by addition of sodium triacetoxyborohydride (550 mg, 2.60 mmol). After 4 hours of stirring at room temperature the reaction mixture was partitioned between additional methylene chloride (50 mL) and 0.1 N HCl (50 mL). The pH of the mixture was then adjusted to ˜13 with 1.0 N NaOH and the layers separated. The aqueous later was extracted with additional methylene chloride (25 mL). The combined organic phases were dried over sodium chloride, then concentrated under reduced pressure. The crude product was purified by silica gel chromatography (ethyl acetate/hexanes) to yield 492 mg of product (64%) as an oil. HPLC RT1=2.78 min; 1H NMR (400 MHz, CDCl3) δ7.28-7.18 (m, 5H), 6.79-6.76 (m, 2H), 6.70-6.68 (m, 2 H), 4.22-4.12 (m, 4H), 4.08-4.02 (m, 1H), 3.99-3.91 (m, 1H), 3.83-3.80 (d, J=12.7 Hz, 1H), 3.65-3.62 (d, J=12.7 Hz, 1H), 3.49-3.47 (m, 1H), 2.17-2.09 (m, 1 H), 2.00-1.92 (m, 1H), 1.49 (s, 6H), 1.26-1.20 (m, 6H).

reactant | 2-amino-4-[4-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenoxy]-butyric acid ethyl ester | 1.73 mmol, 612 mg | C(C)OC(C(CCOC1=CC=C(C=C1)OC(C)(C)C(=O)OCC)N)=O | C18H27NO6
reactant | benzaldehyde | 2.08 mmol, 220 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 2.60 mmol, 550 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzylamino-4-[4-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenoxy]-butyric acid ethyl ester | 492 mg, 64% | C(C)OC(C(CCOC1=CC=C(C=C1)OC(C)(C)C(=O)OCC)NCC1=CC=CC=C1)=O | C25H33NO6
